US04629737
N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-methoxy-2-phenylethanamine hydrochloride hemihydrate
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-methoxy-2-phenylethanamine (3.09 g) in dry tetrahydrofuran (30 ml) was added dropwise, with stirring, to a suspension of lithium aluminium hydride (1.65 g) in dry tetrahydrofuran (40 ml) and the resultant mixture heated under reflux for five hours. After cooling, water (1.7 ml), 10% aqueous sodium hydroxide (1.7 ml) and water (3.4 ml) were added carefully. Filtration and evaporation of the filtrate to dryness gave an oil which was converted to its hydrochloride salt by addition of ethereal hydrogen chloride. Crystallisation from methanol-ethyl acetate gave the title compound, mp 100°-2° C., as a 90:10 mixture of diastereoisomers.

reactant | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methylethyl]-2-methoxy-2-phenylethanamine | 3.09 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)OC | C21H27NO4
reactant | lithium aluminium hydride | 1.65 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1.7 ml | [OH-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | 3.4 ml | O | H2O
solvent | water | 1.7 ml | O | H2O
product | N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-methoxy-2-phenylethanamine hydrochloride hemihydrate | O.Cl.OCCOC1=CC=C(C=C1)CC(C)NCC(C1=CC=CC=C1)OC.OCCOC1=CC=C(C=C1)CC(C)NCC(OC)C1=CC=CC=C1.Cl | InChI=1S/2C20H27NO3.2ClH.H2O/c2*1-16(14-17-8-10-19(11-9-17)24-13-12-22)21-15-20(23-2)18-6-4-3-5-7-18;;;/h2*3-11,16,20-22H,12-15H2,1-2H3;2*1H;1H2
